US07109186B2
Compound 95-B: 2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-2-methylsulfanyl-benzyl)-N-methoxy-acetamide
To a stirred solution of N-(4-fluoro-2-methylsulfanyl-benzyl)-O-methyl-hydroxylamine hydrochloride (1.19 g, 5 mmol) and (2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-acetyl chloride (0.953 g, 5 mmol) in CH2Cl2 (20 mL) was added diisopropyethylamine (1.9 mL, 11 mmol) at room temperature. After 1 h, the reaction mixture was concentrated and the resulting residue was taken up into ether (150 mL), washed with 1N HCl (10 mL), water (20 mL) and brine (20 mL). The organic layer was dried over anhydrous Na2SO4, filtered and concentrated to give product as a white solid (1.77 g, 99%). 1HNMR (300 MHz, CDCl3) δ: 7.28–7.23 (1H, m), 6.90 (1H, dd, J=9.5, 2.6 Hz), 6.78 (1H, td, J=8.4, 2.6 Hz), 6.37 (1H, s), 4.88 (2H, s), 3.62 (3H, s), 2.44 (3H, s), 1.71 (6H, s). MS calcd for C16H18FNO5S Na (M+Na): 378.078; found: 378.18.

reactant | N-(4-fluoro-2-methylsulfanyl-benzyl)-O-methyl-hydroxylamine hydrochloride | 5 mmol, 1.19 g | Cl.FC1=CC(=C(CNOC)C=C1)SC
reactant | (2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-acetyl chloride | 5 mmol, 0.953 g | CC1(OC(C(O1)=CC(=O)Cl)=O)C | C7H7ClO4
reactant | diisopropyethylamine | 11 mmol, 1.9 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-2-methylsulfanyl-benzyl)-N-methoxy-acetamide | 1.77 g, 99% | CC1(OC(C(O1)=CC(=O)N(OC)CC1=C(C=C(C=C1)F)SC)=O)C | C16H18FNO5S
